US08222245B2
3-[8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid hydrochloride
2M Sodium hydroxide solution (aq) (0.5 ml, 1.000 mmol) was added to a solution of ethyl 3-[8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate (Preparation 35) (0.09 g, 0.185 mmol) in ethanol (4 ml) and left at room temperature for 2 hours. The reaction was then evaporated and the resulting crude dissolved in EtOAc/water (30 ml of each) and acidified with acetic acid. The organic layer was dried (magnesium sulphate) and evaporated. The resulting crude was azeotroped with 20 ml of toluene and the residue dissolved in 10 ml of DCM. 1M HCl (1 ml) in ether was added, the reaction mixture evaporated then triturated with ether. The title compound (56 mg) was filtered off as an off-white solid hydrochloride salt. 6H (400 MHz, MeOD) 1.42 (6H, d), 2.92 (2H, t), 3.55 (2H, t), 3.78 (2H, m), 4.40 (2H, m), 4.65 (2H, s), 4.87 (1H, m), 7.31 (1H, d), 7.61 (1H, d), 7.87 (1H, d), 7.96 (1H, dd), 8.11 (1H, dd), 8.21 (1H, d); MS (ES) C23H2435ClN3O6 requires 457; found 458 [M+H]+.

reactant | Sodium hydroxide | 1.000 mmol, 2M, 0.5 ml | [OH-].[Na+]
reactant | ethyl 3-[8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate | 0.185 mmol, 0.09 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CCC(=O)OCC)C=C1 | C25H28ClN3O5
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-[8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid hydrochloride | Cl.ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CCC(=O)O)C=C1 | InChI=1S/C23H24ClN3O5.ClH/c1-14(2)31-19-6-5-16(11-18(19)24)23-25-22(26-32-23)15-3-4-17-13-27(8-7-21(28)29)9-10-30-20(17)12-15;/h3-6,11-12,14H,7-10,13H2,1-2H3,(H,28,29);1H
